US08981085B2
(R)-tert-Butyl 1-(3-(cyclopropanecarboxamido)-5-(2-methoxyethoxy)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.110 g, 0.232 mmol) was dissolved in 5N HCl (2.32 mL, 11.6 mmol) in IPA and stirred at room temperature for 2 hours. The reaction was concentrated to dryness, suspended in acetonitrile (5 mL) and stirred at room temperature for 30 minutes. The resulting precipitate was filtered and dried to yield (R)—N-(4-(3-aminopiperidin-1-yl)-5-(2-methoxyethoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopropanecarboxamide hydrochloride (0.094 g, 90.7% yield) as a solid. 1H NMR (400 MHz, D2O) δ 7.82 (s, 1H), 7.21 (s, 1H), 4.13 (m, 2H), 3.75-3.81 (m, 3H), 3.47 (m, 2H), 3.30 (s, 3H), 3.22 (m, 2H), 2.07 (m, 1H), 1.74 (m, 2H), 1.57-1.65 (m, 2H), 0.88 (m, 2H), 0.93 (m 2H). LCMS (APCI+) m/z 374.2 (M+H).

reactant | (R)-tert-Butyl 1-(3-(cyclopropanecarboxamido)-5-(2-methoxyethoxy)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.232 mmol, 0.110 g | C1(CC1)C(=O)NC1=CNC2=NC=C(C(=C21)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O)OCCOC | C24H35N5O5
reactant | HCl | 11.6 mmol, 5N, 2.32 mL | Cl | ClH
solvent | IPA | CC(C)O | C3H8O
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-(2-methoxyethoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopropanecarboxamide hydrochloride | 0.094 g, 90.7% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1OCCOC)NC=C2NC(=O)C2CC2 | InChI=1S/C19H27N5O3.ClH/c1-26-7-8-27-15-10-22-18-16(17(15)24-6-2-3-13(20)11-24)14(9-21-18)23-19(25)12-4-5-12;/h9-10,12-13H,2-8,11,20H2,1H3,(H,21,22)(H,23,25);1H/t13-;/m1./s1
